US03932429
A mixture of 0.8 g of 1-(3-methoxyphenyl)-6-azabicyclo[3,2,1]octane, 0.74 g of 3-benzoylpropyl chloride, 0.8 g of potassium carbonate, 0.05 g of potassium iodide and 20 ml of toluene is refluxed for 24 hours. After cooling, water is added to the mixture, and the aqueous mixture is extracted with ether. The ether extract is washed with water, dried and then evaporated to remove solvent. The residue thus obtained is dissolved in 2 ml of benzene. The benzene solution is poured onto a column of 50 g of aluminium oxide. Then, the column is eluted with a mixture of 400 ml of benzene and 400 ml of n-hexane, and the effluent is evaporated to remove solvent. Methanolic hydrogen chloride is added to the residue in ether, and the crystalline precipitate is collected by filtration. The precipitate is recrystallized from a mixture of ethanol and ether. 0.485 g of 1-(3-methoxyphenyl)- 6-(3-benzoylpropyl)-6-azabicyclo[3,2,1]octane hydrochloride is obtained. M.p. 167° - 169°C.

reactant | 1-(3-methoxyphenyl)-6-azabicyclo[3,2,1]octane | 0.8 g | COC=1C=C(C=CC1)C12CCCC(NC1)C2 | C14H19NO
reactant | 3-benzoylpropyl chloride | 0.74 g | C(C1=CC=CC=C1)(=O)CCCCl | C10H11ClO
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.05 g | [I-].[K+]
reactant | aluminium oxide | 50 g | [O-2].[Al+3].[O-2].[O-2].[Al+3]
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-methoxyphenyl)- 6-(3-benzoylpropyl)-6-azabicyclo[3,2,1]octane hydrochloride | 0.485 g | Cl.COC=1C=C(C=CC1)C12CCCC(N(C1)CCCC(C1=CC=CC=C1)=O)C2 | InChI=1S/C24H29NO2.ClH/c1-27-22-12-5-10-20(16-22)24-14-6-11-21(17-24)25(18-24)15-7-13-23(26)19-8-3-2-4-9-19;/h2-5,8-10,12,16,21H,6-7,11,13-15,17-18H2,1H3;1H
